US09428528B2
Step 1 Preparation of 7-Bromo-imidazo[1,2-a]pyridine-2-carboxylic acid ethyl ester
To a stirred solution of 4-Bromo-pyridin-2-ylamine (4 g, 23.12 mmol) in toluene (40 mL) is added 3-Bromo-2-oxo-propionic acid ethyl ester (4.5 g, 23.12 mmol). The reaction mixture is heated at 115° C. for 16 hours. Reaction mixture is cooled to 0° C. then diluted with water and extract with ethyl acetate. Organic layer is dried over sodium sulphate, solvent is evaporated in vacuo to afford the title compound (6.5 g). 1H-NMR (400 MHz, DMSO-d6) δ: 1.31 (t, J=7.2 Hz, 3H), 4.26-4.33 (q, J=7.2 Hz, 2H), 7.18-7.20 (dd, J1=1.92 Hz, J2=7.16 Hz, 1H), 7.98 (s, 1H), 8.53 (d, J=7.32 Hz, 1H), 8.57 (s, 1H). LC-MS (m/z): [M+H]=271.0.

reactant | 4-Bromo-pyridin-2-ylamine | 23.12 mmol, 4 g | BrC1=CC(=NC=C1)N | C5H5BrN2
reactant | 3-Bromo-2-oxo-propionic acid ethyl ester | 23.12 mmol, 4.5 g | C(C)OC(C(CBr)=O)=O | C5H7BrO3
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 7-Bromo-imidazo[1,2-a]pyridine-2-carboxylic acid ethyl ester | 6.5 g | C(C)OC(=O)C=1N=C2N(C=CC(=C2)Br)C1 | C10H9BrN2O2
